### PR TITLE
feat: add wide UInt64 arithmetic operations

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `UInt64.mulHi`, `UInt64.mulFull`, `UInt64.addCarry`, and `UInt64.subBorrow` for efficient multi-word arithmetic.

`mulFull` returns `(low, high)`. `addCarry` and `subBorrow` take an incoming carry or borrow bit and return `(sum, carryOut)` and `(difference, borrowOut)`, matching `carrying_mul`, `carrying_add` and `borrowing_sub` in Rust. All four are defined by their `Nat` arithmetic specification, with projection lemmas and reconstruction identities in `Init.Data.UInt.Lemmas`.

`mulHi` is implemented natively in `lean.h`, using the compiler's 128-bit integer type when available and a portable decomposition into 32-bit halves otherwise. The pair-returning operations compile through proved `@[csimp]` replacements to inline implementations using `mulHi` and wrapping arithmetic. Inlining exposes the pair construction to the compiler, so callers that immediately destructure the result allocate nothing.

These operations are the machine-word interface for the Barrett and Montgomery modular reductions in https://github.com/kim-em/hex-dev, which currently carries its own extern shims for them in https://github.com/kim-em/hex-dev/blob/40585b8b9/HexArith/UInt64/Wide.lean.

`test_extern` cases for `mulHi` cover zero, full-word boundaries, and nontrivial bit patterns; the pair-returning operations are checked against the corresponding `Nat` arithmetic when compiled and against their reference definitions by `decide`. A separate C test checks the portable multiplication branch against fixed vectors, and against 128-bit arithmetic on one million deterministic pseudorandom inputs where that is available.

🤖 Prepared with Codex and [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: src/Init/Data/UInt/Basic.lean [hunk 1]
```diff
@@ -594,6 +594,50 @@ This function is overridden at runtime with an efficient implementation.
 -/
 @[extern "lean_uint64_mul", implicit_reducible]
 protected def UInt64.mul (a b : UInt64) : UInt64 := ⟨a.toBitVec * b.toBitVec⟩
+
+/--
+Returns the high 64 bits of the 128-bit product of two 64-bit unsigned integers.
+
+This function is overridden at runtime with an efficient implementation.
+-/
+@[extern "lean_uint64_mul_hi", implicit_reducible]
```
Comment (TwoFX) [inline src/Init/Data/UInt/Basic.lean]: Why are these `implicit_reducible`?

File: src/Init/Data/UInt/Basic.lean [hunk 2]
```diff
@@ -594,6 +594,50 @@ This function is overridden at runtime with an efficient implementation.
...
+def UInt64.mulHi (a b : UInt64) : UInt64 :=
+  UInt64.ofNat (a.toNat * b.toNat / UInt64.size)
+
+/--
+Returns the 128-bit product of two 64-bit unsigned integers as its high and low 64-bit words.
+
+This function is overridden at runtime with an efficient implementation.
+-/
+@[extern "lean_uint64_mul_full", implicit_reducible]
```
Comment (TwoFX) [inline src/Init/Data/UInt/Basic.lean]: For `UInt64.mulFull`, `UInt64.addCarry` and `UInt64.subBorrow`, the `extern` is actually counterproductive; it would be better to implement the formulas you have in the C code in Lean and mark the functions as `@[inline]`.

This compiles to the same thing if the function is used in isolation, but it creates the opportunity for the pair cell to be reused in FBIP. If you want to retain the `Nat`-based definitions, you should `csimp` to a fast Lean implementation.

File: src/Init/Data/UInt/Basic.lean [hunk 3]
```diff
@@ -594,6 +594,50 @@ This function is overridden at runtime with an efficient implementation.
...
+def UInt64.mulFull (a b : UInt64) : UInt64 × UInt64 :=
+  let product := a.toNat * b.toNat
+  (UInt64.ofNat (product / UInt64.size), UInt64.ofNat product)
```
Comment (sgraf812) [inline src/Init/Data/UInt/Basic.lean]: This returns (high, low) which is unlike the (low, high) convention used in `addCarry` (where the high carry bit is the second component) and what I would intuitively expect. I think it's worth spending a few seconds on a conscious design decision here, as it sets the precedent for the future.

File: src/Init/Data/UInt/Basic.lean (hunk 1 above)
Comment (kim-em) [reply src/Init/Data/UInt/Basic.lean]: AI blindly copying from nearby declarations, and me not reading carefully enough... Removed now.

File: src/Init/Data/UInt/Basic.lean (hunk 3 above)
Comment (kim-em) [reply src/Init/Data/UInt/Basic.lean]: Fixed; Rust uses (low, high) as well.

File: src/Init/Data/UInt/Basic.lean (hunk 2 above)
Comment (kim-em) [reply src/Init/Data/UInt/Basic.lean]: Replaced with csimps.

File: src/Init/Data/UInt/Lemmas.lean [hunk 4]
```diff
@@ -3623,3 +3623,115 @@ theorem UInt16.toNat_ofNat_le {n : Nat} : (UInt16.ofNat n).toNat ≤ n := toNat_
 theorem UInt32.toNat_ofNat_le {n : Nat} : (UInt32.ofNat n).toNat ≤ n := toNat_ofNat ▸ Nat.mod_le ..
 theorem UInt64.toNat_ofNat_le {n : Nat} : (UInt64.ofNat n).toNat ≤ n := toNat_ofNat ▸ Nat.mod_le ..
 theorem USize.toNat_ofNat_le {n : Nat} : (USize.ofNat n).toNat ≤ n := toNat_ofNat ▸ Nat.mod_le ..
+
+@[simp] theorem Bool.toNat_toUInt64 (b : Bool) : b.toUInt64.toNat = b.toNat := by
+  cases b <;> rfl
+
+namespace UInt64
```
Comment (TwoFX) [inline src/Init/Data/UInt/Lemmas.lean:3630]: Everything from here should probably go in a new file; this one is already (too) long.

File: src/Init/Data/UInt/Lemmas.lean [hunk 5]
```diff
@@ -3623,3 +3623,115 @@ theorem UInt16.toNat_ofNat_le {n : Nat} : (UInt16.ofNat n).toNat ≤ n := toNat_
 theorem UInt32.toNat_ofNat_le {n : Nat} : (UInt32.ofNat n).toNat ≤ n := toNat_ofNat ▸ Nat.mod_le ..
 theorem UInt64.toNat_ofNat_le {n : Nat} : (UInt64.ofNat n).toNat ≤ n := toNat_ofNat ▸ Nat.mod_le ..
 theorem USize.toNat_ofNat_le {n : Nat} : (USize.ofNat n).toNat ≤ n := toNat_ofNat ▸ Nat.mod_le ..
+
+@[simp] theorem Bool.toNat_toUInt64 (b : Bool) : b.toUInt64.toNat = b.toNat := by
```
Comment (TwoFX) [inline src/Init/Data/UInt/Lemmas.lean:3627]: Would you mind adding the other variants for the other `UIntX` and `IntX` types?

File: src/Init/Data/UInt/Lemmas.lean (hunk 4 above)
Comment (kim-em) [reply src/Init/Data/UInt/Lemmas.lean]: c823a25db8de270a31b8b26d2bcb23704c5c5710

File: src/Init/Data/UInt/Lemmas.lean (hunk 5 above)
Comment (kim-em) [reply src/Init/Data/UInt/Lemmas.lean:3633]: dd53f389dfee3f29021c2c6d72a202a61d1d4d15
